US07132425B2
A solution of N-(5-nitro-pyrazin-2-yl)-methanesulfonamide (583.9 mg, 2.67 mmol) in methanol (26.8 mL) was treated with a solution of ammonium chloride (300.6 mg, 5.62 mmol) in water (2 mL). This solution was stirred at 25° C. for 5 min. At this time, the reaction was treated with zinc dust (1.71 g, 26.2 mmol). The resulting mixture was heated under reflux for 2 h. At this time, the reaction was cooled to 25° C. and was filtered through a pad of silica gel (9/1 methylene chloride/methanol wash). The filtrate was concentrated in vacuo to afford N-(5-amino-pyrazin-2-yl)-methanesulfonamide (548.8 mg, 100%) as a dark-brown gum: EI-HRMS m/e calcd for C5H8N4O2S (M+H)+ 189.0441, found 189.0442.

reactant | N-(5-nitro-pyrazin-2-yl)-methanesulfonamide | 2.67 mmol, 583.9 mg | [N+](=O)([O-])C=1N=CC(=NC1)NS(=O)(=O)C | C5H6N4O4S
reactant | ammonium chloride | 5.62 mmol, 300.6 mg | [Cl-].[NH4+]
solvent | methanol | 26.8 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
catalyst | zinc | 26.2 mmol, 1.71 g | [Zn] | Zn
product | N-(5-amino-pyrazin-2-yl)-methanesulfonamide | 548.8 mg, 100% | NC=1N=CC(=NC1)NS(=O)(=O)C | C5H8N4O2S
